US07723345B2
6.34. Synthesis of (S)-2-Amino-3-(4-(5-(biphenyl-4-ylmethylamino)pyrazin-2-yl)phenyl)propanoic acid
N-(biphenyl-4-ylmethyl)-5-bromopyrazin-2-amine (60 mg, 0.176 mmol), L-p-boronophenylalanine (37 mg, 0.176 mmol), palladiumtriphenylphosphine dichloride (3.6 mg, 0.0052 mmol), Na2CO3 (37 mg, 0.353 mmol), acetonitrile (1.25 mls) and water (1.25 mls) were heated in a microwave reactor at 150° C. for 5 minutes. The mixture was concentrated, dissolved in 1.0 N HCl, washed twice with ether, concentrated and purified by preprative HPLC to give 41 mgs of the title compound. M+1=425; 1H NMR (CD3OD) δ 8.42 (s, 1H), 8.05 (s, 1H), 7.92 (d, 2H), 7.58 (d, 4H), 7.40 (m, 7H), 4.60 (s, 2H), 4.25 (m, 1H), 3.40 (m, 1H), 3.20 (m, 1H).

reactant | N-(biphenyl-4-ylmethyl)-5-bromopyrazin-2-amine | 0.176 mmol, 60 mg | C1(=CC=C(C=C1)CNC1=NC=C(N=C1)Br)C1=CC=CC=C1 | C17H14BrN3
reactant | Na2CO3 | 0.353 mmol, 37 mg | C(=O)([O-])[O-].[Na+].[Na+]
reactant | acetonitrile | 1.25 mls | C(C)#N | C2H3N
catalyst | palladiumtriphenylphosphine dichloride | 0.0052 mmol, 3.6 mg | [Cl-].[Cl-].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd+2]
solvent | water | 1.25 mls | O | H2O
product | (S)-2-Amino-3-(4-(5-(biphenyl-4-ylmethylamino)pyrazin-2-yl)phenyl)propanoic acid | 41 mgs | N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=NC=C(N=C1)NCC1=CC=C(C=C1)C1=CC=CC=C1 | C26H24N4O2
